US03996233
a. 4-Chloro-6-[ethyl(phenylmethyl)amino]-2-methyl-5-nitro-3-pyridine carboxylic acid, ethyl ester
279 g. of 4,6-dichloro-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester are dissolved in 700 ml. of alcohol. 150 g. of triethylamine are added and at reflux temperature 135 g. of benzyl(ethyl)amine are slowly dropped in. After the addition is completed, the heating is continued for another hour. After this time, the solvent is removed in vacuo, 300 ml. of water are added and the mixture extracted three times with 200 ml. portions of ether. The organic layers are combined, dried with calcium chloride and the solvent is distilled off. The resulting oil is distilled in vacuo, b.p.0.05 210°-220°. The crude product is dissolved in 300 ml. of ether and cooled to about -50°. After 24 hours, the isomeric compound 6-chloro-4-[ethyl(phenylmethyl)amino]-2-methyl-5-nitro-3-pyridinecarboxylic acid ethyl ester precipitates, is filtered off and the filtrate evaporated to dryness. The resulting 4-chloro-6-[ethyl(phenylmethyl)amino]-2-methyl-5-nitro-3-pyridinecarboxylic acid, yield 215 g. (56%) is used without further purification.

reactant | 4,6-dichloro-2-methyl-5-nitropyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NC(=C(C1Cl)[N+](=O)[O-])Cl)C | C9H8Cl2N2O4
reactant | benzyl(ethyl)amine | C(C1=CC=CC=C1)NCC | C9H13N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-Chloro-6-[ethyl(phenylmethyl)amino]-2-methyl-5-nitro-3-pyridine carboxylic acid, ethyl ester | ClC1=C(C(=NC(=C1[N+](=O)[O-])N(CC1=CC=CC=C1)CC)C)C(=O)OCC | C18H20ClN3O4
